********************************************************
* TL071H SPICE Macro-model
* Generic Desc: Dual Operational Amplifier
* Revision History: 1.0 (05/2024)
*
* Connections
*	1  = Offset Trim    5  = NC
*	2  = IN1_N		    6  = OUT1
*	3  = IN1_P		    7  = VCC
*	4  = VEE		    8  = Offset Trim
********************************************************
.SUBCKT TL071H 1 2 3 4 5 6 7 8

X1 3 2 7 4 6 TL07XH
.ENDS TL071H

********************************************************
* TL072H SPICE Macro-model
* Generic Desc: Dual Operational Amplifier
* Revision History: 1.0 (05/2024)
*
* Connections
*	1  = OUT1		5  = IN2_P
*	2  = IN1_N		6  = IN2_N
*	3  = IN1_P		7  = OUT2
*	4  = VEE		8  = VCC
********************************************************
.SUBCKT TL072H 1 2 3 4 5 6 7 8

X1 3 2 8 4 1 TL07XH
X2 5 6 8 4 7 TL07XH
.ENDS TL072H

********************************************************
* TL074H SPICE Macro-model
* Generic Desc: Dual Operational Amplifier
* Revision History: 1.0 (05/2024)
*
* Connections
*	1  = OUT1		 8  = OUT3
*	2  = IN1_N       9  = IN3_N
*	3  = IN1_P		10  = IN3_P
*	4  = VCC		11  = VEE
*	5  = IN2_P		12  = IN4_P
*	6  = IN2_N		13  = IN4_N
*	7  = OUT2		14  = OUT4
********************************************************
.SUBCKT TL074H 1 2 3 4 5 6 7 8 9 10 11 12 13 14

X1  3  2 4 11  1 TL07XH
X2  5  6 4 11  7 TL07XH
X3 10  9 4 11  8 TL07XH
X4 12 13 4 11 14 TL07XH
.ENDS TL074H

* TL07XH_TL08XH - Rev. B
* Created by Gerasimos Madalvanos & Carolina Walter; December 29, 2020 - Revised by GPAMPS Team; 2021-08-20
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2020 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.SUBCKT TL07XH IN+ IN- VCC VEE OUT
******************************************************

V_GRp       35 MID 67
V_GRn       36 MID -67
I_OS        ESDn MID 500F
I_B         45 MID 1P
V_ISCp      63 MID 25
V_ISCn      64 MID -25
V_ORn       53 VCLP -6
V11         68 52 0
V_ORp       51 VCLP 6
V12         67 50 0
V4          60 OUT 0
VCM_MIN     84 VEE_B 1
VCM_MAX     85 VCC_B 300M
I_Q         VCC VEE 937.5U
R16         21 MID R_RES_1 1K 
C5          22 21 50F 
R15         21 22 R_RES_2 10K 
R14         22 MID R_RES_3 1 
GVCCS2      22 MID 23 MID  -11.1
C4          24 MID 1.2P 
R11         23 24 R_RES_4 10K 
R6          23 25 R_RES_5 3K 
R5          25 MID R_RES_6 1 
GVCCS1      25 MID 26 MID  -2.4
G2          28 29 27 MID  -1M
R8          29 28 R_RES_7 1K 
R129        MID 30 R_RES_8 1 
G4          30 MID ESDp MID  -6.56M
R1a1        30 27 R_RES_9 100MEG 
C1a1        27 30 1.11P 
R2a1        MID 27 R_RES_10 14.05K 
R13         26 MID R_RES_11 50K 
C1          31 26 13P 
R12         26 31 R_RES_12 10K 
G18         32 MID VSENSE MID  -1U
C1a         32 MID 12.64F 
R117        32 MID R_RES_13 1MEG 
C3          33 MID 3F 
R120        MID 33 R_RES_14 1MEG 
G46         33 MID 34 MID  -1U
XGR_AMP     35 36 37 MID 38 39 CLAMP_AMP_HI_0
R49         35 MID R_RES_15 1G 
R54         36 MID R_RES_16 1G 
R55         VSENSE 37 R_RES_17 1M 
C16         37 MID 1F 
R50         38 MID R_RES_18 1 
R53         MID 39 R_RES_19 1 
R51         38 40 R_RES_20 1M 
R52         39 41 R_RES_21 1M 
C14         40 MID 1F 
C15         MID 41 1F 
XGR_SRC     40 41 CLAMP MID VCCS_LIM_GR_0
Xi_nn       ESDn MID FEMT_0
R2b2        MID 42 R_RES_22 63.31K 
C1b2        42 43 239.6F 
R1b2        43 42 R_RES_23 100MEG 
R131        MID 43 R_RES_24 1 
G55         43 MID VCC_B MID  -538.2M
XVOS_VS_VCM 29 44 VCC VEE VOS_SRC_0
C2          34 MID 5.2F 
R123        MID 34 R_RES_25 1MEG 
G44         34 MID 32 MID  -1U
XVOS_DRIFT  44 45 VOS_DRIFT_0
S5          VEE ESDp VEE ESDp  S_VSWITCH_1
S4          VEE ESDn VEE ESDn  S_VSWITCH_2
S2          ESDn VCC ESDn VCC  S_VSWITCH_3
S3          ESDp VCC ESDp VCC  S_VSWITCH_4
C18         46 MID 1P 
R57         47 46 R_RES_26 100 
C17         48 MID 1P 
R56         49 48 R_RES_27 100 
R48         MID 50 R_RES_28 1 
G11         50 MID 51 MID  -1
R47         52 MID R_RES_29 1 
G10         52 MID 53 MID  -1
R116        54 MID R_RES_30 1 
XZO_SRC     21 MID MID 54 VCCS_LIM_ZO_0
Xi_np       MID 45 FEMT_1
Xe_n        ESDp 45 VNSE_0
C20         CLAMP MID 240N 
R61         MID CLAMP R_RES_31 1MEG 
XAOL_2      55 MID MID CLAMP VCCS_LIM_2_0
R60         MID 55 R_RES_32 1MEG 
XAOL_1      56 57 MID 55 VCCS_LIM_1_0
R114        31 MID R_RES_33 1 
G7          31 MID 58 MID  -2.15
C1a4        59 58 75N 
R2a5        58 MID R_RES_34 1.2K 
R1a5        58 59 R_RES_35 10K 
Rdummy      MID 60 R_RES_36 10.5K 
Rx          60 54 R_RES_37 105K 
R7          59 MID R_RES_38 1 
G40         59 MID CL_CLAMP 60  -89
R2a6        MID 61 R_RES_39 63.31K 
C1a5        61 62 239.6F 
R1a6        62 61 R_RES_40 100MEG 
G57         62 MID VEE_B MID  -538.2M
R133        MID 62 R_RES_41 1 
XIQp        VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQn        MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn 1.75P 
XCL_AMP     63 64 VIMON MID 65 66 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 67 CLAMP 67  S_VSWITCH_5
SOR_SWn     68 CLAMP 68 CLAMP  S_VSWITCH_6
R42         65 MID R_RES_42 1 
R45         MID 66 R_RES_43 1 
R43         65 69 R_RES_44 1M 
R44         66 70 R_RES_45 1M 
C12         69 MID 1F 
C13         MID 70 1F 
XCL_SRC     69 70 CL_CLAMP MID VCCS_LIM_4_0
R41         63 MID R_RES_46 1G 
R46         MID 64 R_RES_47 1G 
XCLAWp      VIMON MID 71 VCC_B VCCS_LIM_CLAW+_0
XCLAWn      MID VIMON VEE_B 72 VCCS_LIM_CLAW-_0
R29         71 VCC_B R_RES_48 1K 
R30         71 73 R_RES_49 1M 
R32         VEE_B 72 R_RES_50 1K 
R33         74 72 R_RES_51 1M 
C9          74 MID 1F 
C8          MID 73 1F 
G8          VCC_CLP MID 73 MID  -1M
R31         VCC_CLP MID R_RES_52 1K 
G9          VEE_CLP MID 74 MID  -1M
R34         MID VEE_CLP R_RES_53 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 75 76 CLAMP_AMP_LO_0
R35         VCC_CLP MID R_RES_54 1G 
R40         VEE_CLP MID R_RES_55 1G 
R36         75 MID R_RES_56 1 
R39         MID 76 R_RES_57 1 
R37         75 77 R_RES_58 1M 
R38         76 78 R_RES_59 1M 
C10         77 MID 1F 
C11         MID 78 1F 
XCLAW_SRC   77 78 CLAW_CLAMP MID VCCS_LIM_3_0
H2          49 MID V11 -1
H3          47 MID V12 1
C19         SW_OL MID 1P 
R59         79 SW_OL R_RES_60 100 
R58         79 MID R_RES_61 1 
XOL_SENSE   MID 79 48 46 OL_SENSE_0
S1          59 58 SW_OL MID  S_VSWITCH_7
H3_2        80 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_8
S6          OUT VCC OUT VCC  S_VSWITCH_9
R83         MID 81 R_RES_62 1G 
R_VOUT_S    81 VOUT_S R_RES_63 100 
C_VOUT_S    VOUT_S MID 1N 
E3          81 MID OUT MID  1
C_VIMON     VIMON MID 1N 
R_VIMON     80 VIMON R_RES_64 100 
R81         MID 80 R_RES_65 1G 
R_VCLP      82 VCLP R_RES_66 100 
C_VCLP      VCLP MID 100P 
E2          82 MID CL_CLAMP MID  1
R66         MID CL_CLAMP R_RES_67 1K 
G16         CL_CLAMP MID CLAW_CLAMP MID  -1M
R65         MID CLAW_CLAMP R_RES_68 1K 
G15         CLAW_CLAMP MID 33 MID  -1M
R62         MID VSENSE R_RES_69 1K 
G12         VSENSE MID CLAMP MID  -1M
C7          56 MID 1F 
R28         56 83 R_RES_70 1M 
R25         MID 84 R_RES_71 1G 
R26         85 MID R_RES_72 1G 
R27         MID 83 R_RES_73 1 
XVCM_CLAMP  86 MID 83 MID 85 84 VCCS_EXT_LIM_0
E6          MID 0 87 0  1
R109        VEE_B 0 R_RES_74 1 
R113        88 VEE_B R_RES_75 1M 
C35         88 0 1F 
R112        87 88 R_RES_76 1MEG 
C34         87 0 100e-9 
R108        87 0 R_RES_77 1T 
R111        89 87 R_RES_78 1MEG 
C33         89 0 1F 
R110        VCC_B 89 R_RES_79 1M 
R107        VCC_B 0 R_RES_80 1 
G37         VEE_B 0 VEE 0  -1
G36         VCC_B 0 VCC 0  -1
R21         90 86 R_RES_81 1K 
G6          86 90 42 61  -1M
R10         57 ESDn R_RES_82 1M 
R9          90 28 R_RES_83 1M 
C_CMn       ESDn MID 1.25P 
C_CMp       MID ESDp 1.25P 
R4          ESDn MID R_RES_84 1T 
R3          MID ESDp R_RES_85 1T 
R2          IN- ESDn R_RES_86 10M 
R1          IN+ ESDp R_RES_87 10M 

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_2 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_3 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_4 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_5 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_6 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_7 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_8 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_9 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_10 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_11 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_12 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_13 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_14 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_15 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_16 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_17 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_18 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_19 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_20 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_21 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_22 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_23 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_24 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_25 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=100 ROFF=1T VON=1 VOFF=100M)
.MODEL S_VSWITCH_2 VSWITCH (RON=100 ROFF=1T VON=1 VOFF=100M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL R_RES_26 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_27 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_28 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_29 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_30 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_31 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_32 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_33 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_34 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_35 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_36 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_37 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_38 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_39 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_40 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_41 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.MODEL R_RES_42 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_43 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_44 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_45 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_46 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_47 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_48 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_49 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_50 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_51 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_52 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_53 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_54 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_55 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_56 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_57 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_58 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_59 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_60 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_61 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_9 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL R_RES_62 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_63 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_64 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_65 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_66 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_67 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_68 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_69 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_70 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_71 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_72 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_73 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_74 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_75 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_76 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_77 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_78 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_79 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_80 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_81 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_82 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_83 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_84 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_85 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_86 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_87 RES ( TCE=0 T_ABS=-273.15)
.ENDS TL07XH

* CLAMP AMP - OVERLOAD AND GROSS CLAMP
.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
*  PINS     CLAMP V+  CLAMP V-  VIN  COM   VOUT+  VOUT-
.PARAM G=10
* OUTPUT G(COM,0) WHEN CONDITION NOT MET
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS CLAMP_AMP_HI_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - GROSS CLAMP
.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 10
.PARAM INEG = -10
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_GR_0


* FEMT - INPUT CURRENT NOISE IN FA/RT-HZ
.SUBCKT FEMT_0  1 2
.PARAM NVRF=80
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS FEMT_0


* VOLTAGE SOURCE (TABLE-DEFINED) - VOS
.SUBCKT VOS_SRC_0  V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(1.6, 125E-6)
+(2.1, 25E-6)
+(3, 15E-6)
+(4, 15E-6)
+(4.3, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.1, -35E-6)
+(0, -10E-6)
+(0.1, 0)
.ENDS VOS_SRC_0


* INPUT OFFSET VOLTAGE VS. TEMPERATURE
.SUBCKT VOS_DRIFT_0  VOS+ VOS-
.PARAM DC = -0.0126
.PARAM POL = 1
.PARAM DRIFT = 0
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS VOS_DRIFT_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - ZO OUTPUT
.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 2
.PARAM IPOS = 5250
.PARAM INEG = -5250
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_ZO_0


* FEMT - INPUT CURRENT NOISE IN FA/RT-HZ
.SUBCKT FEMT_1  1 2
.PARAM NVRF= 80
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS FEMT_1


* VNSE - INPUT VOLTAGE NOISE IN NV/RT-HZ
.SUBCKT VNSE_0  1 2
.PARAM FLW=1
.PARAM NLF=1.02E3
.PARAM NVR=1.98E1
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS FEMT_1


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - AOL SECOND STAGE
.SUBCKT VCCS_LIM_2_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 11.3E-2
.PARAM IPOS = 4.8
.PARAM INEG = -4.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_2_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - AOL FIRST STAGE
.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_1_0


* VOLTAGE-CONTROLLED SOURCE WITH LIMITS - IOUT DRAW
.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS VCCS_LIMIT_IQ_0


* CLAMP AMP - CLAW AND CURRENT LIMIT CLAMP
.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
*  PINS     CLAMP V+  CLAMP V-  VIN  COM   VOUT+  VOUT-
.PARAM G=1
* OUTPUT G(COM,0) WHEN CONDITION NOT MET
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS CLAMP_AMP_LO_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - CURRENT LIMIT CLAMP
.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 268E-3
.PARAM INEG = -268E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_4_0


* VOLTAGE-CONTROLLED CURRENT SOURCE (TABLE-DEFINED) - CLAW+
.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1E-5)
+(10, 6.38E-4)
+(19, 1.39E-3)
+(20, 1.46E-3)
+(24, 1.99E-3)
+(25, 2.24E-3)
+(27.4, 1.03E-2)
.ENDS VCCS_LIM_CLAW+_0


* VOLTAGE-CONTROLLED CURRENT SOURCE (TABLE-DEFINED) - CLAW-
.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 1E-5)
+(10, 5.79E-4)
+(15, 8.97E-4)
+(20, 1.26E-3)
+(25, 1.74E-3)
+(26, 3.56E-3)
+(27.35, 6.17E-3)
.ENDS VCCS_LIM_CLAW-_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - CLAW CLAMP
.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 134E-3
.PARAM INEG = -134E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS VCCS_LIM_3_0


* OVERLOAD SENSE FOR ZO SWITCHES
.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
* PINS          COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS OL_SENSE_0


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH EXTERNAL LIMITS - VCM CLAMP
.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS VCCS_EXT_LIM_0
